US08013010B2
2-Chloro-5-(3,5-dimethyl-4-isoxazolyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 58, starting from 5-bromo-2-chlorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation X, and 3,5-dimethyl-4-iodoisoxazole, the expected compound is obtained in the form of a crude product used without further purification in the deacetylation stage.

reactant | 5-bromo-2-chlorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC(=C2)Br)Cl)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H18BrClO7S
reactant | 3,5-dimethyl-4-iodoisoxazole | CC1=NOC(=C1I)C | C5H6INO
product | 2-Chloro-5-(3,5-dimethyl-4-isoxazolyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC(=C2)C=2C(=NOC2C)C)Cl)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C22H24ClNO8S
